USH0002007H1
To a stirred solution of 0.9 gram (0.002 mole) of N-(ethoxycarbonyl)-N′-[(2-chlorophenyl)(4-chlorophenyl)methyl]piperazine in 10 mL of tetrahydrofuran was added 10 mL of methanol and 10 mL of aqueous 50% sodium hydroxide. Upon completion of the addition the reaction mixture was warmed to 80° C., where it stirred for 24 hours. At the end of this time the reaction mixture was concentrated under reduced pressure. The concentrate was dissolved in chloroform, and the solution was stirred for 40 minutes. The resulting precipitate was collected by filtration. The filtrate was concentrated under reduced pressure, yielding 0.6 gram of crude material. The crude material was purified by preparative thin layer chromatography (TLC). Elution was accomplished with 1:1 acetone: methanol. The product-containing fractions were combined and concentrated under reduced pressure, yielding 0.4 gram of N′-[(2-chlorophenyl)(4-chlorophenyl)-methyl]piperazine. The NMR spectrum was consistent with the proposed structure.

reactant | N-(ethoxycarbonyl)-N′-[(2-chlorophenyl)(4-chlorophenyl)methyl]piperazine | 0.002 mole, 0.9 gram | C(C)OC(=O)N1CCN(CC1)C(C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C20H22Cl2N2O2
reactant | methanol | 10 mL | CO | CH4O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N′-[(2-chlorophenyl)(4-chlorophenyl)-methyl]piperazine | 0.4 gram | ClC1=C(C=CC=C1)C(N1CCNCC1)C1=CC=C(C=C1)Cl | C17H18Cl2N2
